US09422244B2
16.2 g (1 mol equiv.) 3-Bromo-4-(2,2,2-trifluoro-acetylamino)-benzenesulfonyl chloride was dissolved in 150 mL acetonitrile and cooled to 0° C. Dropwise, 20.8 mL (3 mol equiv.) ammoniumhydroxide was added and the reaction mixture was stirred at room temperature for 10 min. during which a white precipitate was formed. Volatiles were removed under reduced pressure, and the solid residue was washed with water and dried in vacuo to afford 14.3 g (94%) N-(2-bromo-4-sulfamoyl-phenyl)-2,2,2-trifluoro-acetamide. 1H NMR (400 MHz, DMSO-d6) δ 7.59 (s, 2H), 7.69 (d, J=8.2 Hz, 1H), 7.88 (dd, J=8.2, 1.8 Hz, 1H), 8.14 (d, J=1.8 Hz, 1H), 11.55 (s, 1H).

reactant | 3-Bromo-4-(2,2,2-trifluoro-acetylamino)-benzenesulfonyl chloride | 1 mol, 16.2 g | BrC=1C=C(C=CC1NC(C(F)(F)F)=O)S(=O)(=O)Cl | C8H4BrClF3NO3S
reactant | ammoniumhydroxide | 3 mol, 20.8 mL | [OH-].[NH4+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | N-(2-bromo-4-sulfamoyl-phenyl)-2,2,2-trifluoro-acetamide | 14.3 g, 94% | BrC1=C(C=CC(=C1)S(N)(=O)=O)NC(C(F)(F)F)=O | C8H6BrF3N2O3S
